US05932571
Combine 2-(t-butyldimethylsilyloxy)ethyl bromide (116.2 g, 486 mmol), and sodium iodide (100 g, 663 mol) in acetone (350 mL) and dimethylformamide (25 mL). Heat to reflux. After 4 hours, cool, filter, and evaporate in vacuo to give a residue. Distill the residue to give 2-(t-butyldimethylsilyloxy)ethyl iodide: bp; 60° C. at 0.5 mm Hg. Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane (3.06 g, 9.67 mmol) and sodium hydride (0.43 g, 60% in oil, 10.64 mmol) in tetrahydrofuran (60 mL) and dimethylformamide (6 mL). After 2 hours, add 2-(t-butyldimethylsilyloxy)ethyl iodide (2.78 g, 9.67 mmol). After 20 hours, heat to reflux. After 4 hours, cool to ambient temperature and add ice to quench. Evaporate in vacuo to remove most of the tetrahydrofuran. Partition the evaporated reaction mixture between ethyl acetate (250 mL) and water (200 mL). Separate the layers and extract the organic layer with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.58 (silica gel, ethyl acetate).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 9.67 mmol, 3.06 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 10.64 mmol, 0.43 g | [H-].[Na+]
reactant | 2-(t-butyldimethylsilyloxy)ethyl iodide | 9.67 mmol, 2.78 g | [Si](C)(C)(C(C)(C)C)OCCI | C8H19IOSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO[Si](C)(C)C(C)(C)C)C=CC=C2 | C25H42N4O3Si
